### PR TITLE
Implement lifting between nested tuples and records

### PR DESCRIPTION
**Pull request by tlringer**
This is a draft PR so that I can see all outstanding tasks left before merging.

### CODE REVIEW

File: plugin/coq/minimal_records.v [hunk 1]
```diff
@@ -1,137 +1,159 @@
...
+Lift Generated'.output Handwritten'.output in Generated'.andBools as andBools.
+
+(*
+ * Now lifting to op uses the cached results:
+ *)
+Lift Generated'.input Handwritten'.input in Generated'.op as op_1 { opaque Generated'.Coq_Init_Datatypes_andb }.
+Lift Generated'.output Handwritten'.output in op_1 as op {opaque firstBool numberI secondBool}.
+(*
+ * Note that to get prettier results here, we told to treat certain constants as opaque.
+ * (TODO why is opacity of andb not inferred and used automatically?)
```
Comment (tlringer) [inline plugin/coq/minimal_records.v]: Answer this or see if fixed

File: plugin/coq/more_records.v [hunk 2]
```diff
@@ -0,0 +1,821 @@
...
+Set DEVOID lift type. (* <-- Prettier types than the ones Coq infers *)
+Set Nonrecursive Elimination Schemes. (* <--- Preprocess needs induction principles for records *)
+
+(*
+ * This file includes more about records, including
+ * tests that the curry record functionality works correctly,
+ * rather than the simple walkthrough from minimal_records.v.
+ *)
+
+(* TODO remove extra imports and functions that aren't used now *)
```
Comment (tlringer) [inline plugin/coq/more_records.v]: Do this

File: plugin/coq/more_records.v [hunk 3]
```diff
@@ -0,0 +1,821 @@
...
+(* TODO note somewhere: Can you find patch between left and right? Then use as a unified example w/ PUMPKIN PATCH? *)
```
Comment (tlringer) [inline plugin/coq/more_records.v]: Do this

File: plugin/coq/more_records.v [hunk 4]
```diff
@@ -0,0 +1,821 @@
...
+
+Module GeneratedParamsFancy.
+
+Definition input (T : Type) (t : T) (F : T -> Prop) :=
+  (prod (F t) (prod T (exists t', t <> t' -> F t'))).
+
+End GeneratedParamsFancy.
+
+Find ornament HandwrittenParamsFancy.input GeneratedParamsFancy.input as input_params_fancy_curry.
+(* TODO test lifting for above *)
```
Comment (tlringer) [inline plugin/coq/more_records.v]: Do or remove this

File: plugin/coq/more_records.v [hunk 5]
```diff
@@ -0,0 +1,821 @@
...
+(* TODO test output *)
```
Comment (tlringer) [inline plugin/coq/more_records.v]: Do or remove this

File: plugin/coq/more_records.v [hunk 6]
```diff
@@ -0,0 +1,821 @@
...
+
+(* --- Things left: --- *)
+
+(* TODO test: failure cases, eta expanded or not expanded variations (e.g. try not eta expanded constr with parameters, like (prod nat) ), taking prod directly, etc *)
```
Comment (tlringer) [inline plugin/coq/more_records.v]: Do this

File: plugin/coq/more_records.v [hunk 7]
```diff
@@ -0,0 +1,821 @@
...
+(* TODO check test results *)
```
Comment (tlringer) [inline plugin/coq/more_records.v]: Remove this

File: plugin/coq/prod_rect.v [hunk 8]
```diff
@@ -0,0 +1,152 @@
...
+
+(*
+ * This code is a minimized example from @ptival, which I use as a regression test
+ * to make sure projections aren't expanded and left as applications of prod_rect,
+ * and that projections/accessors lift to accessors/projections.
+ *
+ * The proofs here are purposely brittle, since they should break if the terms are not _exactly_ syntactically equal.
+ *)
+
+Module SN.
```
Comment (tlringer) [inline plugin/coq/prod_rect.v]: Rename these things here to be more reasonable

File: plugin/coq/prod_rect.v [hunk 9]
```diff
@@ -0,0 +1,152 @@
...
+Lift SN_PP.h H_PP.H in H_PP.get_h_b as getHB.
+
+Definition get_h_b_expected (h : SN_PP.h) :=
+  Prod.fst _ _ h.
+
+Lemma test_get_h_b:
+  get_h_b = get_h_b_expected.
+Proof.
+  unfold get_h_b, get_h_b_expected.
+  match goal with
```
Comment (tlringer) [inline plugin/coq/prod_rect.v]: Move this into a common Ltac tactic somewhere

File: plugin/src/automation/desugarprod.ml [hunk 10]
```diff
@@ -0,0 +1,56 @@
+(*
+ * These are the produtils from the library, but extended to automatically
+ * also preprocess rather than produce terms with match statements
+ *
+ * TODO move me out of automation before merging
```
Comment (tlringer) [inline plugin/src/automation/desugarprod.ml]: Do this

File: plugin/src/automation/equivalence.ml [hunk 11]
```diff
@@ -261,6 +262,114 @@ let equiv_proof env sigma l =
       (reconstruct_lambda_n env_eq_proof sym_app (nb_rel env_to))
   in reconstruct_lambda env_to equiv_b
 
+(*
+ * Prove section/retraction for curry record
+ * TODO move into two files like you do with search, or really,
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: Do this, or use options to unify in an interesting way, or both

File: plugin/src/automation/equivalence.ml [hunk 12]
```diff
@@ -261,6 +262,114 @@ let equiv_proof env sigma l =
...
+ * probably want two module implementations given the way this is
+ * structured
+ *
+ * TODO probably broken w/ params, more than three constructors, etc.
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: Fixed, so remove comment

File: plugin/src/automation/equivalence.ml [hunk 13]
```diff
@@ -261,6 +262,114 @@ let equiv_proof env sigma l =
...
+ * test and fix
+ *)
+let equiv_proof_curry_record env sigma l =
+  let to_body = lookup_definition env (lift_to l) in
+  let env_to = zoom_env zoom_lambda_term env to_body in
+  let npm = nb_rel env_to - 1 in
+  let pms = mk_n_rels npm in
+  let sigma, typ_app = reduce_type env_to sigma (mkRel 1) in
+  if l.is_fwd then (* TODO consolidate more *)
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: Do

File: plugin/src/automation/equivalence.ml [hunk 14]
```diff
@@ -261,6 +262,114 @@ let equiv_proof env sigma l =
...
+          elim;
+          pms = shift_all pms;
+          p;
+          cs;
+          final_args = [mkRel 1];
+        }
+    in reconstruct_lambda env_to eq_proof
+  else
+    let at_type = shift typ_app in
+    (* v TODO common functionality w/ search, move somewhere common *)
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: Do

File: plugin/src/automation/equivalence.ml [hunk 15]
```diff
@@ -261,6 +262,114 @@ let equiv_proof env sigma l =
...
+    let rec build_proof pms at_type to_elim arg =
+      let typ1 = to_elim.Produtils.typ1 in
+      let typ2 = to_elim.Produtils.typ2 in
+      let env_typ1 = push_local (Anonymous, typ1) env in
+      let env_proof = push_local (Anonymous, shift typ2) env_typ1 in
+      let typ1 = shift_by 2 typ1 in
+      let typ2 = shift_by 2 typ2 in
+      let at_type = shift_by 2 at_type in
+      if equal prod (first_fun typ2) then
+        (* TODO clean/unify arg/arg_sub logic ... *)
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: Do

File: plugin/src/automation/equivalence.ml [hunk 16]
```diff
@@ -261,6 +262,114 @@ let equiv_proof env sigma l =
...
+        let arg_sub = apply_pair Produtils.{ typ1 = shift typ1; typ2 = shift typ2; trm1; trm2 } in
+        let trm2 = all_eq_substs (mkRel 4, arg_sub) (shift_by 3 arg) in
+        let trm1 = mkAppl (lift_back l, snoc (mkAppl (lift_to l, snoc trm2 (shift_all_by 2 pms))) (shift_all_by 2 pms)) in
+        let p = mkLambda (Anonymous, typ2, apply_eq { at_type; trm1; trm2 }) in
+        let to_elim = dest_prod typ2 in
+        let trm1 = mkRel 2 in
+        let trm2 = mkRel 1 in
+        let arg_sub = apply_pair Produtils.{ typ1; typ2; trm1; trm2 } in
+        let arg = all_eq_substs (mkRel 3, arg_sub) (shift_by 2 arg) in
+        (* TODO shift before rec? clean etc... make all offsets very clear... *)
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: Do

File: plugin/src/automation/equivalence.ml [hunk 17]
```diff
@@ -261,6 +262,114 @@ let equiv_proof env sigma l =
...
+        reconstruct_lambda env_proof (apply_eq_refl { typ; trm })
+    in
+    let proof = build_proof (shift_all_by 2 pms) at_type to_elim (mkRel 1) in
+    let arg = mkRel 1 in
+    let equiv_b = elim_prod Produtils.{ to_elim; p; proof; arg } in
+    reconstruct_lambda env_to equiv_b
+
+(*
+ * Prove section/retraction
+ * TODO instead of checking the indexer and so on, set a configuration option
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: This is done, so use the option to implement the call

File: plugin/src/automation/lift.ml [hunk 18]
```diff
@@ -26,10 +26,26 @@ open Funutils
 open Constutils
 open Stateutils
 open Hofs
+open Desugarprod
+open Substitution
+open Convertibility
```
Comment (tlringer) [inline plugin/src/automation/lift.ml]: Split into a bunch of files

File: plugin/src/automation/lift.ml [hunk 19]
```diff
@@ -26,10 +26,26 @@ open Funutils
...
 let dest_sigT_type = on_red_type_default (ignore_env dest_sigT)
+let dest_prod_type env sigma trm =
+  let sigma, typ = reduce_type env sigma trm in
+  let typ_f = unwrap_definition env (first_fun typ) in
+  let typ_args = unfold_args typ in
+  let typ_red = mkAppl (typ_f, typ_args) in
+  let sigma, typ_red = reduce_term env sigma typ_red in
+  ignore_env dest_prod env sigma typ_red
+
+let convertible env t1 t2 sigma =
```
Comment (tlringer) [inline plugin/src/automation/lift.ml]: Is this needed? Ask on Gitter

File: plugin/src/automation/lift.ml [hunk 20]
```diff
@@ -26,10 +26,26 @@ open Funutils
...
 open Stateutils
 open Hofs
+open Desugarprod
+open Substitution
+open Convertibility
 
 (* --- Convenient shorthand --- *)
 
 let dest_sigT_type = on_red_type_default (ignore_env dest_sigT)
+let dest_prod_type env sigma trm =
```
Comment (tlringer) [inline plugin/src/automation/lift.ml]: Some of this can probably be reused in several places

File: plugin/src/automation/lift.ml [hunk 21]
```diff
@@ -26,10 +26,26 @@ open Funutils
...
+  let sigma, typ = reduce_type env sigma trm in
+  let typ_f = unwrap_definition env (first_fun typ) in
+  let typ_args = unfold_args typ in
+  let typ_red = mkAppl (typ_f, typ_args) in
+  let sigma, typ_red = reduce_term env sigma typ_red in
+  ignore_env dest_prod env sigma typ_red
```
Comment (tlringer) [inline plugin/src/automation/lift.ml]: Also, move into Desugarprod

File: plugin/src/automation/lift.ml [hunk 22]
```diff
@@ -26,10 +26,26 @@ open Funutils
...
+
+let convertible env t1 t2 sigma =
+  if equal t1 t2 then
+    sigma, true
+  else
+    convertible env sigma t1 t2
 
 (* --- Internal lifting configuration --- *)
```
Comment (tlringer) [inline plugin/src/automation/lift.ml]: Move into its own file

File: plugin/src/automation/lift.ml [hunk 23]
```diff
@@ -59,113 +106,364 @@ let deindex l = remove_index l.off
...
+     let b_t = first_fun b_i_t in
+     (a_t, b_t, None)
 
 (* --- Premises --- *)
 
 (*
  * Determine whether a type is the type we are ornamenting from
  * That is, A when we are promoting, and B when we are forgetting
+ *
+ * TODO it's more like e_is_from with pms/indices
```
Comment (tlringer) [inline plugin/src/automation/lift.ml]: Ignore, but in comment say what it returns (do elsewhere for similar changes to these functions)

File: plugin/src/automation/lift.ml [hunk 24]
```diff
@@ -59,113 +106,364 @@ let deindex l = remove_index l.off
...
-    if is_or_applies sigT typ then
-      equal b_typ (first_fun (dummy_index env sigma (dest_sigT typ).packer))
+    if is_or_applies a_typ typ then
+      sigma, Some (unfold_args typ)
     else
-      false
+      sigma, None
+  else
+    match c.l.orn.kind with
+    | Algebraic -> (* TODO explain the opaque thing *)
```
Comment (tlringer) [inline plugin/src/automation/lift.ml]: Do

File: plugin/src/automation/lift.ml [hunk 25]
```diff
@@ -59,113 +106,364 @@ let deindex l = remove_index l.off
...
+       if is_or_applies sigT typ && not (is_opaque c sigT) then
+         let packed = dummy_index env sigma (dest_sigT typ).packer in
+         if equal b_typ (first_fun packed) then
+           sigma, Some (deindex c.l (unfold_args packed))
+         else
+           sigma, None
+       else
+         sigma, None
+    | CurryRecord ->
+       (* TODO optimize, don't do unless you need to *)
```
Comment (tlringer) [inline plugin/src/automation/lift.ml]: Do

**Comment by tlringer** [comment]
Document some goals after this: User-supplied equivalences, handling tuples nested differently, then back to UF stuff and eventually our fancy HoTT solver progress

File: plugin/src/cache/caching.ml [hunk 26]
```diff
@@ -103,107 +220,146 @@ let initialize_local_cache () =
...
+            (ExtRefOrdered.hash (TrueGlobal o))
+            (ExtRefOrdered.hash (TrueGlobal n)))
     end)
 
 (* Initialize the ornament cache *)
 let orn_cache = OrnamentsCache.create 100
 
+(*
+ * The kind of ornament that is stored
+ * TODO move this out since also used in lifting
```
Comment (tlringer) [inline plugin/src/cache/caching.ml]: Do

File: plugin/src/cache/caching.ml [hunk 27]
```diff
@@ -9,80 +9,197 @@ open Lib
...
+    let lifted_trm = global_of_constr lifted_trm in
+    let lift_obj = inLifts ((orn_o, orn_n, trm), Some lifted_trm) in
+    add_anonymous_leaf lift_obj
+  with _ ->
+    Feedback.msg_warning (Pp.str "Failed to cache lifting")
+
+(* --- Opaque liftings --- *)
+
+(* The persistent storage is backed by a normal hashtable *)
+module OpaqueLiftingsCache =
```
Comment (tlringer) [inline plugin/src/cache/caching.ml]: Unify some of these types

File: plugin/src/ornaments/lifting.mli [hunk 28]
```diff
@@ -5,31 +5,32 @@
 open Constr
 open Environ
 open Evd
+open Caching
 
 (* --- Datatypes --- *)
 
 (*
- * An ornamental promotion is an indexing function, a function
+ * An ornamental promotion is an optional indexing function, a function
```
Comment (tlringer) [inline plugin/src/ornaments/lifting.mli]: Remove old comment

File: plugin/src/automation/equivalence.ml [hunk 29]
```diff
@@ -41,7 +42,7 @@ open Declarations
  * Take as arguments the original environment, an evar_map, the recursive
  * arguments for the particular case, and a lift config.
  *)
-let eq_lemmas_env env recs l =
+let eq_lemmas_env env recs l off =
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: I don't really like this

**Comment by tlringer** [comment]
There's still more work after this to generalize further and to make this more configurable, but I'm OK with the current separation of concerns.
